US09212190B2
A 250-mL round-bottom flask was charged with a solution of ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]acetate (10.10 g, 34.55 mmol, 1.00 equiv) in POCl3 (80 g, 521.75 mmol, 15.00 equiv) was stirred for 1 h at 90° C. in an oil bath under nitrogen. The resulting mixture was concentrated under vacuum. The residue was added dropwise to a cooled saturated aqueous sodium bicarbonate and extracted with 3×200 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5) to give the ethyl 2-[3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]acetate (6.67 g, 62%) as a yellow solid. MS: m/z 311, 313 (M+H)+.

reactant | ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]acetate | 34.55 mmol, 10.10 g, 1.00 equiv | OC=1C=2C=3CC(CCC3SC2N=CN1)CC(=O)OCC | C14H16N2O3S
reactant | POCl3 | 521.75 mmol, 80 g, 15.00 equiv | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-[3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]acetate | 6.67 g, 62% | ClC=1C=2C=3CC(CCC3SC2N=CN1)CC(=O)OCC | C14H15ClN2O2S
